US06777417B2
Synthesis of 4-(3-{2-[5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazine-1-carboxylic acid ethyl ester
4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazine-1-carboxylic acid ethyl ester (65 mg, 0.1 87 mmol) was condensed with 5-methylaminosulfonyloxindole (43 mg, 1.01 eq.) following the same condition used in Example 1 above. The precipitated solid was purified by flash chromatography, eluting with dichloromethan/methanol (50/1, 40/1, 30/1) to provide 65 mg of the desired product.

reactant | 4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazine-1-carboxylic acid ethyl ester | 87 mmol, 65 mg | C(C)OC(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C19H29N3O3
reactant | 5-methylaminosulfonyloxindole | 43 mg, 1.01 eq. | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | 4-(3-{2-[5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazine-1-carboxylic acid ethyl ester | 65 mg | C(C)OC(=O)N1CCN(CC1)CCCC1=C(NC=2CCCCC12)\C=C\1/C(NC2=CC=C(C=C12)S(NC)(=O)=O)=O | C28H37N5O5S
